US08557805B2
2-[2-(7-Methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetamide
To a solution of [2-(7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetic acid (300 mg) in N,N-dimethylformamide (12 mL) were added 1-hydroxybenzotriazole ammonium salt (154 mg) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (194 mg) under ice-cooling, and the mixture was stirred from under ice-cooling to room temperature for 2 days. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate solution and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:methanol=100:0 to 90:10, volume ratio) to give pale-yellow crystals. The obtained crystals were recrystallized from methanol-ethyl acetate to give the title compound (224 mg, yield 75%) as colorless crystals.

reactant | [2-(7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetic acid | 300 mg | CC=1C=C(C=C2C=C(NC12)C=1SC(CN1)CC(=O)O)OC=1C=NC(=CC1)S(=O)(=O)C | C20H19N3O5S2
reactant | 1-hydroxybenzotriazole ammonium salt | 154 mg | [NH4+].ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 194 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
product | 2-[2-(7-Methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetamide | 224 mg, yield 75% | CC=1C=C(C=C2C=C(NC12)C=1SC(CN1)CC(=O)N)OC=1C=NC(=CC1)S(=O)(=O)C | C20H20N4O4S2
